US07067658B2
[4-(2-Chloro-4-trifluoromethyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine (0.40 g, 1.0 mmol) and Na2S2O4 (1.39 g, 8.0 mmol) were treated substantially as described in Part E of Example 9 to yield 0.29 g (78%) of 4-(2-chloro-4-trifluoromethyl-phenyl)-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine: MS (AP) m/z 373.8 [(M+H)+, 100].

reactant | [4-(2-Chloro-4-trifluoromethyl-phenyl)-3-nitro-pyridin-2-yl]-(1-methoxymethyl-propyl)-amine | 1.0 mmol, 0.40 g | ClC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=NC=C1)NC(CC)COC)[N+](=O)[O-] | C17H17ClF3N3O3
reactant | Na2S2O4 | 8.0 mmol, 1.39 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
product | 4-(2-chloro-4-trifluoromethyl-phenyl)-N2-(1-methoxymethyl-propyl)-pyridine-2,3-diamine | 0.29 g, 78% | ClC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=NC=C1)NC(CC)COC)N | C17H19ClF3N3O
